US05087638
A solution of 2-(p-methoxybenzyl)-3-methyl-4-propyl-5-hydroxybenzofuran (1.2 gm, 3.87 mmoles), ethyl chloroformate (0.1 mL) and triethylamine (1.0 mL) in tetrahydrofuran (15 mL) was stirred at room temperature overnight. The volatiles were removed in vacuo. The residue was purified by chromatography on silica gel and eluted with 15% ethylacetate in hexane to yield 1.2 gm (79%) of 2-(p-methoxybenzyl)-3-methyl-4-propyl-5-ethoxycarbonyloxybenzofuran, mp. 51°-53° C.

reactant | 2-(p-methoxybenzyl)-3-methyl-4-propyl-5-hydroxybenzofuran | 3.87 mmoles, 1.2 gm | COC1=CC=C(CC=2OC3=C(C2C)C(=C(C=C3)O)CCC)C=C1 | C20H22O3
reactant | ethyl chloroformate | 0.1 mL | ClC(=O)OCC | C3H5ClO2
reactant | triethylamine | 1.0 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 2-(p-methoxybenzyl)-3-methyl-4-propyl-5-ethoxycarbonyloxybenzofuran | 1.2 gm, 79% | COC1=CC=C(CC=2OC3=C(C2C)C(=C(C=C3)OC(=O)OCC)CCC)C=C1 | C23H26O5
